US04258181
A solution of 2.66 g. (0.01 mole) of 2,6-dihydroxy-9,10-anthracenedicarboxaldehyde in 100 ml. of hot glacial acetic acid is treated with 2.5 g. (0.025 mole) of acetic anhydride. The mixture is stirred, heated on a steam for one hour, then allowed to cool yielding crystals of 2,6-diacetoxy-9,10-anthracenedicarboxaldehyde.

reactant | 2,6-dihydroxy-9,10-anthracenedicarboxaldehyde | 0.01 mole | OC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)C=O)O)C=O | C16H10O4
reactant | acetic anhydride | 0.025 mole | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2,6-diacetoxy-9,10-anthracenedicarboxaldehyde | C(C)(=O)OC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)C=O)OC(C)=O)C=O | C20H14O6
